US08748429B2
tert-Butyl (1S,2S)-1-(3-bromopyrazin-2-yl)-2-(2,3-difluorophenyl)hex-5-enylcarbamate
In a 250 mL round-bottomed flask was (R)—N-((1S)-1-(3-bromopyrazin-2-yl)-2-(2,3-difluorophenyl)hex-5-enyl)-2-methylpropane-2-sulfinamide (1.96 g, 4.16 mmol) in methanol (17 mL) to give a tan solution. HCl (4M in dioxane, 4.2 mL, 17 mmol) was added, and the mixture was stirred at rt for 1 h. Volatiles were removed in vacuo and the tan residue was diluted with ether and concentrated. The remaining tan foam was directly used in the next reaction. In the same round-bottomed flask was dissolved (1S,2S)-1-(3-bromopyrazin-2-yl)-2-(2,3-difluorophenyl)hex-5-en-1-amine (1.532 g, 4.16 mmol) (crude HCl salt) and t-butylpyrocarbonate (1.449 mL, 6.24 mmol) in methylene chloride (22 mL) to give a tan solution. triethylamine (1.28 mL, 9.15 mmol) was added dropwise, and the mixture was stirred at rt for 2 h. LCMS showed complete conversion. It was concentrated to dryness, and directly subject to flash column chromatography up to 40% ethyl acetate/hexane to afford the desired product (1.80 g, 92% for 2 steps) as colorless oil: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.27 (d, J=17.07 Hz, 2H) 6.92-7.14 (m, 3H) 5.69 (dd, J=10.29, 5.77 Hz, 1H) 5.63 (dd, J=9.41, 5.90 Hz, 1H) 5.41 (d, J=9.54 Hz, 1H) 4.84-4.95 (m, 2H) 3.65 (br. s., 1H) 1.88-2.08 (m, 3H) 1.81 (br. s., 1H) 1.30-1.41 (m, 9H). A slightly more polar diastereomer (generally <10% if there was minimum epimerization at the aldehyde stage) could be removed at this stage: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.46 (d, J=2.26 Hz, 1H) 8.20 (d, J=2.51 Hz, 1H) 6.88-7.11 (m, 3H) 5.66-5.81 (m, 1H) 5.60 (t, J=8.91 Hz, 1H) 5.51 (d, J=9.29 Hz, 1H) 4.83-5.00 (m, 2H) 3.55 (d, Hz, 1H) 1.87-2.06 (m, 3H) 1.73-1.86 (m, 1H) 1.44 (s, 9H).

reactant | HCl | 17 mmol, 4M, 4.2 mL | Cl | ClH
reactant | (1S,2S)-1-(3-bromopyrazin-2-yl)-2-(2,3-difluorophenyl)hex-5-en-1-amine | 4.16 mmol, 1.532 g | BrC=1C(=NC=CN1)[C@H]([C@@H](CCC=C)C1=C(C(=CC=C1)F)F)N | C16H16BrF2N3
reactant | t-butylpyrocarbonate | 6.24 mmol, 1.449 mL | C(C)(C)(C)OC(=O)OC(=O)[O-]
reactant | triethylamine | 9.15 mmol, 1.28 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 22 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (1S,2S)-1-(3-bromopyrazin-2-yl)-2-(2,3-difluorophenyl)hex-5-enylcarbamate | 1.80 g, 92% | BrC=1C(=NC=CN1)[C@H]([C@@H](CCC=C)C1=C(C(=CC=C1)F)F)NC(OC(C)(C)C)=O | C21H24BrF2N3O2
